US06545033B1
2-[2,6-Dichloro-4-(trifluoromethyl)phenyl]-3-methyl-2,4,5,6-tetrahydrocyclopenta[c]pyrazole (33)
2-Acetyl cyclopentanone (0.12 mL, 1 mmol) and 2,6-dichloro-4-trifluoromethylphenylhydrazine (245 mg, 1 mmol) in EtOH (10 mL) was heated under reflux for 12 hr. EtOH was removed under reduced pressure and the product purified by flash chromatography on silica (10% EtOAc:Hexane): yield 75%. 1H NMR (CDCl3) δ 7.8 (s, 2H), 2.6 (m, 6H each), 2.2 (s, 3H); MS (M+) 335.

reactant | 2-Acetyl cyclopentanone | 1 mmol, 0.12 mL | C(C)(=O)C1C(CCC1)=O | C7H10O2
reactant | 2,6-dichloro-4-trifluoromethylphenylhydrazine | 1 mmol, 245 mg | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)NN | C7H5Cl2F3N2
solvent | EtOH | 10 mL | CCO | C2H6O
product | 2-[2,6-Dichloro-4-(trifluoromethyl)phenyl]-3-methyl-2,4,5,6-tetrahydrocyclopenta[c]pyrazole | yield 75% | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C2C(=C1C)CCC2 | C14H11Cl2F3N2
